* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
V_V         $N_0002 0  
+PULSE 0V 5V 0 1n 1n 5m 10m
L_L2         0 $N_0001  100mH  
